US09376443B2
7-(4-methylthiazol-2-yl)-3-(6-[1-hydroxycyclobutyl]pyrid-2-ylmethyl)-3H-[1,2,3]triazolo[4,5-d]pyrimidin-5-amine
This is prepared from 7-chloro-3-(6-[1-hydroxycyclobutyl]pyrid-2-ylmethyl)-3H-[1,2,3]triazolo[4,5-d]pyrimidin-5-amine and 4-methylthiazole by the method of Example 38.

reactant | 7-chloro-3-(6-[1-hydroxycyclobutyl]pyrid-2-ylmethyl)-3H-[1,2,3]triazolo[4,5-d]pyrimidin-5-amine | ClC=1C2=C(N=C(N1)N)N(N=N2)CC2=NC(=CC=C2)C2(CCC2)O | C14H14ClN7O
reactant | 4-methylthiazole | CC=1N=CSC1 | C4H5NS
product | 7-(4-methylthiazol-2-yl)-3-(6-[1-hydroxycyclobutyl]pyrid-2-ylmethyl)-3H-[1,2,3]triazolo[4,5-d]pyrimidin-5-amine | CC=1N=C(SC1)C=1C2=C(N=C(N1)N)N(N=N2)CC2=NC(=CC=C2)C2(CCC2)O | C18H18N8OS
